US07276539B2
(vi) Methyl 2-{[2-(4-hydroxyphenyl)ethyl]thio }-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]propanoate
To a solution of methyl 2-({2-[4-(benzyloxy)phenyl]ethyl}thio)-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]propanoate (477 mg, 0.8 mmol) and 15 ml dichlormethane, dimethyl sulfide (239 mg, 3.8 mol) and boron trifluoride etherate (545 mg, 3.8 mmol) were added. After 18 hours of stirring water was added to the reaction. The phases were separated and the aqueous phase was extracted twice with dichlormethane. The organic phases were pooled, dried (MgSO4) and evaporated under reduced pressure. 274 mg of the desired product (yield 67%) was obtained as an oil.

reactant | methyl 2-({2-[4-(benzyloxy)phenyl]ethyl}thio)-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]propanoate | 0.8 mmol, 477 mg | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCSC(C(=O)OC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C34H36O7S2
reactant | dichlormethane | 15 ml | ClCCl | CH2Cl2
reactant | dimethyl sulfide | 3.8 mol, 239 mg | CSC | C2H6S
reactant | boron trifluoride etherate | 3.8 mmol, 545 mg | B(F)(F)F.CCOCC
solvent | water | O | H2O
product | Methyl 2-{[2-(4-hydroxyphenyl)ethyl]thio }-3-[4-(2-{4-[(methylsulfonyl)oxy]phenoxy}ethyl)phenyl]propanoate | 274 mg, yield 67% | OC1=CC=C(C=C1)CCSC(C(=O)OC)CC1=CC=C(C=C1)CCOC1=CC=C(C=C1)OS(=O)(=O)C | C27H30O7S2
